US04367238
Sodium hydride (50%, 650 mg), ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate (4 g) and ethyl bromide (3.35 g) were treated in a similar, manner to that of Example 10-(5) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]butyrate (4.3 g).

reactant | Sodium hydride | 650 mg | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate | 4 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C19H19NO4
reactant | ethyl bromide | 3.35 g | C(C)Br | C2H5Br
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]butyrate | 4.3 g | C(#N)C(C(=O)OCC)(CC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C21H23NO4
